US07119207B2
6-Methoxy-1-methyl-7-[(2S,3S)-(2-phenyl-1-trifluoroacetyl-piperidin-3-ylamino)-methyl]-3,4-dihydro-1H-quinolin-2-one
To 313 mg (0.825 mmol) of 6-methoxy-1-methyl-7-[(2-phenyl-piperidin-3-yl-amino)-methyl]-3,4-dihydro-1H-quinolin-2-one in CH2Cl2 at room temperature was added rapidly dropwise 208 mg (0.99 mmol) of trifluoroacetic anhydride. After 5 minutes, the mixture was partitioned between water (5 mL) and CHCl3 (5 mL). The organic layer was washed with 5 mL satd sodium biocarbonate (NaHCO3), dried via filtration through a plug of cotton, and concentrated. The residue was chromatographed (10:90 EtOAc/hexanes) to give 250 mg (89%) of the title compound as the free amine, a colorless oil. 1H NMR (major rotomer, 400 MHz, CDCl3) δ 7.60 (d, J=6.8, 2H), 7.20–7.40 (m, 3H), 6.82 (s, 1H), 6.61 (s, 1H), 6.00 (d, J=5.6, 1H), 3.82 (s, 3H), 3.19 (dt, J=2.4, 14.4, 1H), 3.19 (dt, J=2.4, 14.4, 1H), 3.06–3.12 (m, 1H), 2.80–2.86 (m, 2H), 2.57–2.62 (m, 2H), 1.60–2.10 (comp, 5H). The residue was dissolved in methanol (4 mL) and treated with 3.3 mL of a 0.5 M solution of HCl in methanol. Concentration in vacuo gave the hydrochloride salt as a white powder (mp 222–224° (dec)); mass spectrum m/e calcd. for M+H=476.2. Found 476.4.

reactant | 6-methoxy-1-methyl-7-[(2-phenyl-piperidin-3-yl-amino)-methyl]-3,4-dihydro-1H-quinolin-2-one | 0.825 mmol, 313 mg | COC=1C=C2CCC(N(C2=CC1CNC1C(NCCC1)C1=CC=CC=C1)C)=O | C23H29N3O2
reactant | trifluoroacetic anhydride | 0.99 mmol, 208 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-Methoxy-1-methyl-7-[(2S,3S)-(2-phenyl-1-trifluoroacetyl-piperidin-3-ylamino)-methyl]-3,4-dihydro-1H-quinolin-2-one | 250 mg, 89% | COC=1C=C2CCC(N(C2=CC1CN[C@@H]1[C@@H](N(CCC1)C(C(F)(F)F)=O)C1=CC=CC=C1)C)=O | C25H28F3N3O3
